US08030305B2
6-[6-(1-Methanesulfonyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinoline
To a solution of 6-[6-(1H-Pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinoline as prepared in Example 3 (10 mg, 0.03 mmol) and DIEA (9 μL, 0.05 mmol) in DCM (2 mL) was added methane sulfonylchloride (4 μL, 0.05 mmol). The reaction was stirred at rt overnight. The reaction was concentrated in vacuo followed by purification by HPLC (5-65% CH3CN over 35 min) resulting in the title compound (3.1 mg, 31%) as a white solid. 1H-NMR (CD3OD): δ 9.06-9.00 (2H, q, J=5.3, 7.0 Hz), 8.89 (1H, s), 8.44 (1H, s), 8.29-8.10 (4H, m), 7.96-7.92 (1H, q, J=5.3, 3.0), 7.75-7.73 (1H, d, J=9.8 Hz), 4.87 (2H, s), 3.42 (3H, s). ESI-MS (m/z): Calcd. For C19H15N7O2S: 405.10; found: 406.1 (M+H).

reactant | 6-[6-(1H-Pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinoline | N1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C18H13N7
reactant | DIEA | 0.05 mmol, 9 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methane sulfonylchloride | 0.05 mmol, 4 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-[6-(1-Methanesulfonyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinoline | 3.1 mg, 31% | CS(=O)(=O)N1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C19H15N7O2S
